US06762321B2
Five hundred milligrams (500 mg) of 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acrylamide (1.33 mmol), 5 ml of anhydrous N,N-dimethylformamide, 196 mg (2.65 mmol) of 3-chloropropyne and 60 mg (1.46 mmol) of 60% sodium hydride were stirred at room temperature for 2 hours. Water was added to to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochrolic acid, saturated aqueous sodium bicarbonate solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 242 mg of 3-difluoromethoxy-N-[2-{3-methoxy-4-(2-propynyloxy)phenyl}ethyl]-2-(4-methylphenyl)acrylamide (the present compound 1353).

reactant | 3-difluoromethoxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acrylamide | 1.33 mmol, Five hundred milligrams | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)O)OC)C1=CC=C(C=C1)C)F | C20H21F2NO4
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | 3-chloropropyne | 2.65 mmol, 196 mg | ClCC#C | C3H3Cl
reactant | sodium hydride | 1.46 mmol, 60 mg | [H-].[Na+]
solvent | Water | O | H2O
product | 3-difluoromethoxy-N-[2-{3-methoxy-4-(2-propynyloxy)phenyl}ethyl]-2-(4-methylphenyl)acrylamide | 242 mg | FC(OC=C(C(=O)NCCC1=CC(=C(C=C1)OCC#C)OC)C1=CC=C(C=C1)C)F | C23H23F2NO4
